US06960601B2
A flask was charged with 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-[trans-2-hydroxycyclohexyl]-1H-imidazole-4-carboxamide (Table entry 336) (35 mg, 0.1 mmol), benzene (3 mL), 50% aqueous NaOH (2.5 mL), and Bu4NHSO4 (17 mg). While the mixture was stirred vigorously at 10° C., CH3I (19 μL, 0.3 mmol) was added dropwise rapidly. The mixture was stirred for another 30 minutes, and diluted with water (5 mL) and hexane (10 mL). The organic layer was dried over MgSO4, filtered, and concentrated. The residue was purified by flash chromatography (75% EtOAc in hexane) to give the product 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-[(1R,2S)-2-methoxycyclohexyl]-1H-imidazole-4-carboxamide (23 mg, 63% yield): LC-MS m/z 444.2 (MH+), retention time 3.24 min (method 1).

reactant | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-[trans-2-hydroxycyclohexyl]-1H-imidazole-4-carboxamide | 0.1 mmol, 35 mg | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)N[C@H]1[C@@H](CCCC1)O)C1=CC=C(C=C1)Cl | C22H21Cl2N3O2
reactant | benzene | 3 mL | C1=CC=CC=C1 | C6H6
reactant | NaOH | 2.5 mL | [OH-].[Na+]
reactant | CH3I | 0.3 mmol, 19 μL | CI | CH3I
catalyst | Bu4NHSO4 | 17 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
solvent | water | 5 mL | O | H2O
solvent | hexane | 10 mL | CCCCCC | C6H14
product | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-[(1R,2S)-2-methoxycyclohexyl]-1H-imidazole-4-carboxamide | 23 mg, 63% yield | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)N[C@H]1[C@H](CCCC1)OC)C1=CC=C(C=C1)Cl | C23H23Cl2N3O2
